US06943159B1
3-Methyl-7-piperidinosulfonyl-1,2,3,4-tetrahydro-1,2,4-benzothiadiazine-1,1-dioxide
2-Aminobenzenesulfonamide was used as starting material for the following transformation sequence: Method C, Method A (using piperidine as amine), Method D, Method G [using paraldehyde and a cat. amount of TsOH]. M.p. 255-256° C.

reactant | 2-Aminobenzenesulfonamide | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | paraldehyde | CC1OC(OC(O1)C)C | C6H12O3
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | 3-Methyl-7-piperidinosulfonyl-1,2,3,4-tetrahydro-1,2,4-benzothiadiazine-1,1-dioxide | CC1NS(C2=C(N1)C=CC(=C2)S(=O)(=O)N2CCCCC2)(=O)=O | C13H19N3O4S2
